* H:\+--- Sortierte Dokumente ---+\GitHub\CATs-Eurosynth\Modules\Standard Line\Envelope Follower\Simulation\Envelope Follower.asc
V1 Vcc 0 12
V2 0 Vee 12
V3 Audio 0 SINE(0 5 1000 100m 5)
R1 N002 Audio 100k
R13 N008 N007 2k
D4 N008 N009 1N4148
C1 N009 0 100n
R14 N009 0 39k
R§P1 N010 N009 1k
R15 N011 N010 10k
C2 N011 0 100n
R16 N006 N005 18k
R17 N005 0 10k
R18 Out N006 1k
D1 N004 N002 1N4148
R2 N003 N002 100k
D2 N003 N004 1N4148
R4 N001 Audio 100k
R3 N001 N003 100k
R5 N001 N003 100k
R7 N007 N001 100k
XU1 0 N002 Vcc Vee N004 TL072
XU2 0 N001 Vcc Vee N007 TL072
XU3 N011 N005 Vcc Vee N006 TL072
XU4 0 N012 Vcc Vee N013 TL072
R6 N012 N006 1k
D3 N013 N012 NSCW100
D5 N012 N013 1N4148
.model D D
.lib H:\+--- Sortierte Dokumente ---+\LTspiceXVII\lib\cmp\standard.dio
.tran 2
.lib TL072.lib
.backanno
.end
